US06982348B2
3) ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoate
To a solution of zinc chloride (915 mg, 6.71 mmol) in diethyl ether (20 ml) was added sodium borohydride (508 mg, 13.4 mmol), and the mixture was-stirred at room temperature for 30 min. Insoluble material was filtered off, and a solution of ethyl 3-(4-fluorophenyl)-3-oxo-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoate (1.40 g, 3.35 mmol) in diethyl ether (10 ml) was added to the filtrate at 0° C. The mixture was stirred for 30 min. and 1N hydrochloric acid was added to the reaction solution to stop the reaction. Then, water (50 ml) was added and the mixture was extracted with ethyl-acetate (50 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1) to give the objective substance (1.28 g, 91%).

reactant | sodium borohydride | 13.4 mmol, 508 mg | [BH4-].[Na+]
reactant | ethyl 3-(4-fluorophenyl)-3-oxo-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoate | 3.35 mmol, 1.40 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=NC(=CC=C1)OC(C(F)F)(F)F)=O | C19H16F5NO4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 6.71 mmol, 915 mg | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoate | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=NC(=CC=C1)OC(C(F)F)(F)F)O | C19H18F5NO4
